Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
echocardiogram showed ___

 
Major Surgical or Invasive Procedure:
___
1. Redo sternotomy.
2. Redo coronary artery bypass grafting x1 with a reverse
    saphenous vein graft from the aorta to the previously
    placed double sequential vein graft to the posterior
descending coronary artery and second obtuse marginal coronary
artery
3. Aortic valve replacement with a 25-mm ___ Ease
    aortic valve bioprosthesis model number ___, serial
    number ___.
4. Endoscopic vein harvesting.

 
History of Present Illness:
___ male s/p CABG in ___. He
had known aortic stenosis at time of surgical revascularization
but it was not significant enough to require
aortic valve replacement. However since that time,  serial
echocardiograms have confirmed progression of aortic valve
stenosis. Currently he denies chest pain, dyspnea, syncope,
presyncope, palpitations, orthopnea, PND and pedal edema. He has
been referred for surgical evaluation. 

 
Past Medical History:
- Aortic Stenosis
- Myocardial infarction
- Coronary Disease
- Dyslipidemia
- Hypertension
- History of postop PAF
- Hypothyroid related to amiodarone
Past Surgical History
- Emergent coronary bypass grafting x5, on intra-aortic balloon
pump with endoscopic left greater saphenous vein harvesting and
endoscopic right greater saphenous vein harvesting on ___
- Re-Exploration for bleeding following CABG

 
Social History:
___
Family History:
Non contributory 
 
Physical Exam:
Pulse:59 Resp:16  O2 sat: 98/RA
B/P  Right:137/82    Left: 157/79
Height:5'9"     Weight:200 lbs

General:
Skin: Dry [x] intact [x]
HEENT: PERRLA [x] EOMI [x]
Neck:  Supple [x] Full ROM [x]
Chest: Lungs clear bilaterally [x] Sternotomy incision, sternum
stable
Heart: RRR [x]  Irregular []  Murmur III/VI SEM
Abdomen: Soft [x] non-distended [x] non-tender [x]  bowel sounds
+ [x]
Extremities: Warm [x], well-perfused [x]  Edema Varicosities:
None [x] Bilateral vein harvest sites
Neuro: Grossly intact
Pulses:
Femoral      Right: cath site   Left: +2
DP           Right:+2   Left:+2
___           Right:+2   Left:+2
Radial       Right: +2  Left:+2

Carotid Bruit        Right/Left:transmitted murmur

Discharge Exam
VS:T: 98.6  HR: 93 SR BP: 124/70 RR 18 Sats: 95% RA WT: 97 kg
General: ___ year-old male in no apparent distress
HEENT: normocephalic, mucus membranes moist
Neck: supple no lymphadenopathy
Card: RRR 
Resp: bibasilar crackles otherwise clear
GI: benign
Extr: warm tr edema bilateral
Incision: sternal clean dry intact no erythema.  
Neuro: awake, alert oriented

 
Pertinent Results:
___, Intraop TEE
Conclusions  
Pre CPB (before first bypass run):
No spontaneous echo contrast or thrombus is seen in the body of 
the left atrium or left atrial appendage. 
No atrial septal defect is seen by 2D or color Doppler. 
There is moderate symmetric left ventricular hypertrophy. 
Overall left ventricular systolic function is low normal (LVEF 
50-55%). Doppler parameters are indeterminate for left 
ventricular diastolic function. 
Right ventricular chamber size and free wall motion are normal. 
The ascending aorta is mildly dilated. The aortic arch is mildly 
dilated. There are simple atheroma in the descending thoracic 
aorta. 
The aortic valve leaflets are severely thickened/deformed. There 
is severe aortic valve stenosis (valve area 0.8-1.0cm2). Mild to 
moderate (___) aortic regurgitation is seen. 
The mitral valve leaflets are mildly thickened. Trivial mitral 
regurgitation is seen.
Wire was seen in descending aorta during femoral artery 
cannulation.
Femoral venous cannula seen entering ___ during placement by 
surgeon.

Post CPB:
The patient is being A-paced on phenylephrine and epinephrine 
infusions.
The is a well seated bioprosthetic valve in the aortic position 
which has mean/peak gradients of ___ with a cardiac output 
of ___.
There is trivial mitral regurgitation.
The visible contours of the thoracic aorta are intact.   
 
___ WBC-10.9 RBC-2.81* Hgb-9.3* Hct-27.1* MCV-96 MCH-33.3* 
MCHC-34.5 RDW-12.6 Plt ___
___ WBC-20.5*# RBC-3.08* Hgb-10.2* Hct-29.4* MCV-96 
MCH-33.1* MCHC-34.7 RDW-12.6 Plt ___
___ Glucose-109* UreaN-17 Creat-0.9 Na-137 K-4.2 Cl-98 
HCO3-29 
___ UreaN-17 Creat-0.7 Na-139 K-3.9 Cl-112* HCO3-21* 
AnGap-10
___ Mg-2.3
 
Brief Hospital Course:
The patient was brought to the operating room on ___ where 
the patient underwent redo, AVR (tissue), revision of PDA/OM 
graft .   Overall the patient tolerated the procedure well and 
post-operatively was transferred to the CVICU in stable 
condition for recovery and invasive monitoring.  
POD 1 found the patient extubated, alert and oriented and 
breathing comfortably.  The patient was neurologically intact 
and hemodynamically stable, weaned from inotropic and 
vasopressor support.  Beta blocker was initiated and the patient 
was gently diuresed toward the preoperative weight.  The patient 
was transferred to the telemetry floor for further recovery.  He 
developed urinary retention.  ___ was re-inserted and Flomax 
started, he voided following ___ foley removal.  Chest tubes and 
pacing wires were discontinued without complication.  

The patient was evaluated by the physical therapy service for 
assistance with strength and mobility.  By the time of discharge 
on POD4 the patient was ambulating freely, the wound was healing 
and pain was controlled with oral analgesics.  The patient was 
discharged to home with Partners ___ in good condition with 
appropriate follow up instructions.  
 
Medications on Admission:
AMIODARONE -  (Prescribed by Other Provider) - 200 mg Tablet - 1
Tablet(s) by mouth daily
CITALOPRAM [CELEXA] -  (Prescribed by Other Provider) - 20 mg
Tablet - 1 Tablet(s) by mouth once a day
FOLIC ACID -  (Prescribed by Other Provider) - 1 mg Tablet - 1
Tablet(s) by mouth daily
LEVOTHYROXINE -  (Prescribed by Other Provider) - 50 mcg Tablet 
-
1 Tablet(s) by mouth daily
LORAZEPAM -  (Prescribed by Other Provider) - 1 mg Tablet - 1
Tablet(s) by mouth twice a day
METOPROLOL TARTRATE -  (Prescribed by Other Provider) - 50 mg
Tablet - 1 Tablet(s) by mouth twice a day
SIMVASTATIN [ZOCOR] -  (Prescribed by Other Provider) - 40 mg
Tablet - 1 Tablet(s) by mouth once a day
 
Medications - OTC
ASPIRIN [ENTERIC COATED ASPIRIN] -  (Prescribed by Other
Provider) - 81 mg Tablet, Delayed Release (E.C.) - 1 Tablet(s) 
by
mouth once a day
CHLORHEXIDINE GLUCONATE - 4 % Liquid - apply topically daily
Shower daily using chlorhexidine for 5 days prior to surgery and
the day of surgery
MULTIVITAMIN-MINERALS-LUTEIN [CENTRUM SILVER] -  (Prescribed by
Other Provider) -   Tablet - Tablet(s) by mouth daily
THIAMINE HCL -  (Prescribed by Other Provider) - 100 mg Tablet -
1 Tablet(s) by mouth once a day
--------------- --------------- --------------- ---------------

 
Discharge Medications:
1. lorazepam 1 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
2. amiodarone 200 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. citalopram 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
4. folic acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

5. levothyroxine 50 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
6. simvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
7. multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
8. thiamine HCl 100 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
9. metoprolol tartrate 50 mg Tablet Sig: One (1) Tablet PO BID 
(2 times a day).  
10. aspirin 81 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily).  
11. tamsulosin 0.4 mg Capsule, Ext Release 24 hr Sig: One (1) 
Capsule, Ext Release 24 hr PO HS (at bedtime).
Disp:*30 Capsule, Ext Release 24 hr(s)* Refills:*2*
12. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day).  
13. oxycodone-acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
every ___ hours as needed for pain.
Disp:*60 Tablet(s)* Refills:*0*
14. furosemide 20 mg Tablet Sig: One (1) Tablet PO once a day 
for 5 days.
Disp:*5 Tablet(s)* Refills:*0*
15. potassium chloride 10 mEq Capsule, Extended Release Sig: One 
(1) Capsule, Extended Release PO once a day: take with 
furosemide.
Disp:*5 Capsule, Extended Release(s)* Refills:*0*
16. acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q4H 
(every 4 hours) as needed for pain.  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___:
- Aortic Stenosis
- Myocardial infarction
- Coronary Disease
- Dyslipidemia
- Hypertension
- History of postop PAF
- Hypothyroid related to amiodarone
Past Surgical History
- Emergent coronary bypass grafting x5, on intra-aortic balloon
pump with endoscopic left greater saphenous vein harvesting and
endoscopic right greater saphenous vein harvesting on ___
- Re-Exploration for bleeding following CABG

 
Discharge Condition:
Alert and oriented x3 nonfocal
Ambulating, gait steady
Sternal pain managed with oral analgesics
Sternal Incision - healing well, no erythema or drainage

 
Discharge Instructions:
Please shower daily including washing incisions gently with mild 
soap, no baths or swimming, and look at your incisions
Please NO lotions, cream, powder, or ointments to incisions
Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart
No driving for approximately one month and while taking 
narcotics, will be discussed at follow up appointment with 
surgeon when you will be able to drive
No lifting more than 10 pounds for 10 weeks
Please call with any questions or concerns ___
**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**

 
Followup Instructions:
___